US08258130B2
A solution of 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid (250 mg, 1.1 mmol) and 3-ethyl-5-trifluoromethoxy-indol-1-ylamine (244 mg, 1 mmol) in DMF (5 mL) is stirred at 50° C. for 1 h. The mixture is treated with DMTMM (276 mg, 1.0 mmol) and stirred at 50° C. for 1 h. The mixture is diluted with saturated aqueous Na2CO3 (5 mL) and stirred for 10 min. The precipitate is collected by filtration, washed with H2O (50 mL) and heptane (50 mL), and dried in vacuo to afford 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid (3-ethyl-5-trifluoromethoxy-indol-1-yl)-amide (130 mg, 29%). MS: 443 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 9.25 (s, 1H), 9.05 (d, 2H), 7.69 (t, 1H), 7.64 (s, 1H), 7.54 (m, 2H), 7.14 (d, 1H), 2.80 (s, 3H), 2.76 (q, 2H), 1.29 (t, 3H).

reactant | 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid | 1.1 mmol, 250 mg | CC1=NC(=NC=C1C(=O)O)C1=NC=CC=N1 | C10H8N4O2
reactant | 3-ethyl-5-trifluoromethoxy-indol-1-ylamine | 1 mmol, 244 mg | C(C)C1=CN(C2=CC=C(C=C12)OC(F)(F)F)N | C11H11F3N2O
reactant | DMTMM | 1.0 mmol, 276 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Na2CO3 | 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid (3-ethyl-5-trifluoromethoxy-indol-1-yl)-amide | 130 mg, 29% | C(C)C1=CN(C2=CC=C(C=C12)OC(F)(F)F)NC(=O)C=1C(=NC(=NC1)C1=NC=CC=N1)C | C21H17F3N6O2
